US07435815B2
N-Benzyl-2-[(4-tert-butyl-benzenesulfonyl)-p-tolyl-amino]-N-(2-cyano-ethyl)-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-p-tolyl-amino]-acetic acid with 3-benzylamino-propionitrile

reactant | [(4-tert-butyl-benzenesulfonyl)-p-tolyl-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=CC=C(C=C1)C)CC(=O)O | C19H23NO4S
reactant | 3-benzylamino-propionitrile | C(C1=CC=CC=C1)NCCC#N | C10H12N2
product | N-Benzyl-2-[(4-tert-butyl-benzenesulfonyl)-p-tolyl-amino]-N-(2-cyano-ethyl)-acetamide | C(C1=CC=CC=C1)N(C(CN(C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)=O)CCC#N | C29H33N3O3S
